US07022667B2
To a solution of nocathiacin IV-TFA salt (compound of Preparation 2, 35 mg) in THF/CH3CN (3.5 mL, 6:1) was added 1,3-2-diazaphosphorine on polystyrene (26 mg, 2.3 mmol/g) and the mixture was stirred at 25° C. for 30 minutes. The resin-bound base (1,3-2-diazaphosphorine on polystyrene) was then removed by filtration. The filter cake was washed with MeOH, THF, CH3CN and H2O. The filtrate was then concentrated under reduced pressure in order to remove volatiles. The resulting solution was frozen and lyophilized to afford 24 mg of nocathiacin IV as the free base.

reactant | nocathiacin IV TFA | 35 mg | C[C@H]1[C@H]([C@@](C[C@@H](O1)O[C@H]2[C@@H]3[C@H]4C5=NC(=CS5)C(=O)N[C@@H](COC(=O)C6=C(C7=C(C=CC=C7N6O)COC2=O)CO3)C8=NC(=CS8)C9=C(C=C(C(=N9)C1=NC(=CS1)C(=O)N)O)C1=NC(=CS1)C(=O)N[C@H](C(=O)N/C(=C(\C)/OC)/C1=NC(=CS1)C(=O)N4)[C@@H](C)O)(C)O)N(C)C.C(=O)(C(F)(F)F)O
solvent | THF CH3CN | 3.5 mL | C1CCOC1.CC#N
product | nocathiacin IV | 24 mg | C[C@H]1[C@H]([C@@](C[C@@H](O1)O[C@H]2[C@@H]3[C@H]4C5=NC(=CS5)C(=O)N[C@@H](COC(=O)C6=C(C7=C(C=CC=C7N6O)COC2=O)CO3)C8=NC(=CS8)C9=C(C=C(C(=N9)C1=NC(=CS1)C(=O)N)O)C1=NC(=CS1)C(=O)N[C@H](C(=O)N/C(=C(\C)/OC)/C1=NC(=CS1)C(=O)N4)[C@@H](C)O)(C)O)N(C)C | C58H57N13O17S5
